US04196216
(4) 2-[(α-methyl-4-chlorobenzylidene amino)oxy] propionic acid.
To a solution of 1.85 g of a sodium in 150 ml of absolute ethanol 6.8 g of 4-chloroacetophenone oxime and 8.6 g of α-bromopropionic acid were added in this order with stirring. After the mixture had been stirred for 1 hour the ethanol was removed in a vacuum. The residue was mixed with water and the mixture was washed twice with ether. The aqueous solution then was acidified and extracted twice with ether. The ethereal extracts were washed 6 times with water, dried over anhydrous sodiumsulfate and concentrated by evaporation. After crystallisation of the residue from petroleum ether, the superscribed substance was obtained. After it had been washed once with water and crystallized from a mixture of benzene and petroleum ether te melting point was 88° C.-89° C.

reactant | sodium | 1.85 g | [Na] | Na
reactant | 4-chloroacetophenone oxime | C/C(=N/O)/C1=CC=C(C=C1)Cl | C8H8ClNO
reactant | α-bromopropionic acid | 8.6 g | BrC(C(=O)O)C | C3H5BrO2
solvent | ethanol | 150 ml, 6.8 g | C(C)O | C2H6O
product | 2-[(α-methyl-4-chlorobenzylidene amino)oxy] propionic acid | CC(C1=CC=C(C=C1)Cl)=NOC(C(=O)O)C | C11H12ClNO3
